US09399637B2
Step 8) tert-butyl 8-((2-chloropyrimidin-4-yl)(methyl)amino)-2-azaspiro[4.5]decane-2-carboxylate
To a solution of 2,4-dichloropyrimidine (596 mg, 4.0 mmol) and tert-butyl 8-(methylamino)-2-azaspiro[4.5]decane-2-carboxylate (1.29 g, 4.8 mmol) in EtOH (10 mL) was added Et3N (0.92 g, 9.1 mmol) and the reaction mixture was stirred at rt overnight and then concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/PE (v/v)=1/2) to give the product as a pale yellow solid (580 mg, 38.1%).

reactant | 2,4-dichloropyrimidine | 4.0 mmol, 596 mg | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | tert-butyl 8-(methylamino)-2-azaspiro[4.5]decane-2-carboxylate | 4.8 mmol, 1.29 g | CNC1CCC2(CCN(C2)C(=O)OC(C)(C)C)CC1 | C15H28N2O2
reactant | Et3N | 9.1 mmol, 0.92 g | CCN(CC)CC | C6H15N
solvent | EtOH | 10 mL | CCO | C2H6O
product | tert-butyl 8-((2-chloropyrimidin-4-yl)(methyl)amino)-2-azaspiro[4.5]decane-2-carboxylate | 580 mg, 38.1% | ClC1=NC=CC(=N1)N(C1CCC2(CCN(C2)C(=O)OC(C)(C)C)CC1)C | C19H29ClN4O2
